US05998439
Synthesis of 4-(1-(2-(2,2,2-trifluoroethoxy)ethyl)-1H-benzimidazole-2-carbonyl)piperidine hydriodic acid salt
Combine 1-(t-butoxycarbonyl)-4-(1-(2-(2,2,2-trifluoroethoxy)ethyl)-1H-benzimidazole-2-carbonyl)piperidine (5.0 mmol) and dichloromethane (150 mL). Cool to 0° C. using an ice bath. Add hydriodic acid (gas) until the solution is saturated and stir. After 30 minutes, again add hydriodic acid (gas) until the solution is saturated. After 2 hours, evaporate in vacuo to give, after drying, the title compound.

reactant | 1-(t-butoxycarbonyl)-4-(1-(2-(2,2,2-trifluoroethoxy)ethyl)-1H-benzimidazole-2-carbonyl)piperidine | 5.0 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1CCOCC(F)(F)F)C=CC=C2 | C22H28F3N3O4
reactant | hydriodic acid | I | HI
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 4-(1-(2-(2,2,2-trifluoroethoxy)ethyl)-1H-benzimidazole-2-carbonyl)piperidine hydriodic acid salt | I.FC(COCCN1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2)(F)F | InChI=1S/C17H20F3N3O2.HI/c18-17(19,20)11-25-10-9-23-14-4-2-1-3-13(14)22-16(23)15(24)12-5-7-21-8-6-12;/h1-4,12,21H,5-11H2;1H
